US08003647B2
4-[3-Cyano-5-(thiophen-2-ylmethyloxy)indol-1-yl]benzoic acid ethyl ester
To a solution of 4-(5-hydroxy-3-cyanoindol-1-yl)benzoic acid ethyl ester and tiophene-2-methanol (0.057 g) and triphenylphosphine (0.012 g) in tetrahydrofuran (2.5 mL) was added diisopropylcarbodiimide (40% toluene solution, 0.18 mL) at room temperature, and this mixture was stirred for 3 hours. This reaction mixture was concentrated under reduced pressure. This residue was purified by column chromatography on silica gel (eluent: ethyl acetate/n-hexane=1/3) to give the title compound (0.10 g).

reactant | 4-(5-hydroxy-3-cyanoindol-1-yl)benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)N1C=C(C2=CC(=CC=C12)O)C#N)=O | C18H14N2O3
reactant | tiophene-2-methanol | 0.057 g | S1C(=CC=C1)CO | C5H6OS
reactant | triphenylphosphine | 0.012 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropylcarbodiimide | 0.18 mL | C(C)(C)N=C=NC(C)C | C7H14N2
solvent | tetrahydrofuran | 2.5 mL | O1CCCC1 | C4H8O
product | 4-[3-Cyano-5-(thiophen-2-ylmethyloxy)indol-1-yl]benzoic acid ethyl ester | 0.10 g | C(C)OC(C1=CC=C(C=C1)N1C=C(C2=CC(=CC=C12)OCC=1SC=CC1)C#N)=O | C23H18N2O3S
